US06642251B1
A mixture of 0.6 g 5,6-dimethoxy-1-indanone, 1.04 g oxindole and 2.3 ml piperidine in 4 ml dimethylformamide was heated in a sealed tube at 130° C. for 12 hours to yield an orange suspension. The mixture was added to 1N hydrochloric acid in ethanol and the solids which formed were filtered and rinsed with water and ethanol. The solid was slurried in ethanol and filtered to yield 200 mg of 3-(5,6-dimethoxyindan-1-ylidene)-1,3-dihydroindol-2-one.

reactant | 5,6-dimethoxy-1-indanone | 0.6 g | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | oxindole | 1.04 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 2.3 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 3-(5,6-dimethoxyindan-1-ylidene)-1,3-dihydroindol-2-one | 200 mg | COC=1C=C2CCC(C2=CC1OC)=C1C(NC2=CC=CC=C12)=O | C19H17NO3
